US07091215B2
2-Ethyl-4-methoxypyrazolo[1,5-a]pyridine
Potassium tert-butoxide (11.1 g) was added to a solution of N-amino-2-(1-butynyl)-4-methoxypyridinium mesitylenesulfonate (20.7 g) in tetrahydrofuran (300 mL) and N,N-dimethylformamide (15 mL), and the mixture was stirred at room temperature for 1 hour. Water was added while cooling on ice, extraction was performed with ethyl acetate, the extract was washed with brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (200 g), and the title compound (6.44 g) was obtained from the n-hexane:ethyl acetate (3:1) fraction as a yellow oil.

reactant | Potassium tert-butoxide | 11.1 g | CC(C)([O-])C.[K+]
reactant | N-amino-2-(1-butynyl)-4-methoxypyridinium mesitylenesulfonate | 20.7 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)[O-])C.N[N+]1=C(C=C(C=C1)OC)C#CCC
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-Ethyl-4-methoxypyrazolo[1,5-a]pyridine | 6.44 g | C(C)C1=NN2C(C(=CC=C2)OC)=C1 | C10H12N2O
